US04563524
To a solution of potassium hydroxide (1.3 g) in methanol (9 ml) was added 3-(4-benzyl-1-piperazinyl)propylamine (4.9 g) and thereto was added carbon disulfide (1.8 g) under ice cooling over a period of 10 minutes. The resulting mixture was stirred for 4 hours under ice cooling. The reaction mixture was evaporated under reduced pressure. The residual oil was dissolved in water (20 ml) and washed with diethyl ether. The washed aqueous layer was ice-cooled and thereto was added methyl iodide (3.0 g) with stirring under ice-cooling over a period of 10 minutes. The resulting mixture was stirred for 4 hours under ice-cooling. The reaction mixture was extracted with ethyl acetate, dried over magnesium sulfate and the evaporated under reduced pressure to give an oil of methyl N-[3-(4-benzyl-1-piperazinyl)propyl]dithiocarbamate (4.6 g).

reactant | potassium hydroxide | 1.3 g | [OH-].[K+]
reactant | 3-(4-benzyl-1-piperazinyl)propylamine | 4.9 g | C(C1=CC=CC=C1)N1CCN(CC1)CCCN | C14H23N3
reactant | carbon disulfide | 1.8 g | C(=S)=S | CS2
reactant | methanol | 9 ml | CO | CH4O
product | methyl N-[3-(4-benzyl-1-piperazinyl)propyl]dithiocarbamate | 4.6 g | C(C1=CC=CC=C1)N1CCN(CC1)CCCNC(SC)=S | C16H25N3S2
